US07285558B2
2-(1-benzothien-3-ylmethyl)-7-isobutyl-3-(1-methyl-1H-pyrrol-2-yl)-5-(pyridin-2-ylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
2-(1-benzothien-3-ylmethyl)-7-isobutyl-3-(1-methyl-1H-pyrrol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione was dissolved in anhydrous dimethylsulfoxide and 1,8-diazabicyclo[5.4.0]undec-7-ene was added. 2-picolyl chloride hydrochloride was added and the mixture was heated at 80° C. for 18 h. The crude reaction product was purified by semi-prep RPHPLC eluting with water/acetonitrile/trifluoroacetic acid mixtures. 525 (M+H).

reactant | 2-(1-benzothien-3-ylmethyl)-7-isobutyl-3-(1-methyl-1H-pyrrol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | S1C=C(C2=C1C=CC=C2)CN2N=C1N(C(NC(C1=C2C=2N(C=CC2)C)=O)=O)CC(C)C | C23H23N5O2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2-picolyl chloride hydrochloride | Cl.N1=C(C=CC=C1)CCl
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2-(1-benzothien-3-ylmethyl)-7-isobutyl-3-(1-methyl-1H-pyrrol-2-yl)-5-(pyridin-2-ylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | S1C=C(C2=C1C=CC=C2)CN2N=C1N(C(N(C(C1=C2C=2N(C=CC2)C)=O)CC2=NC=CC=C2)=O)CC(C)C | C29H28N6O2S
